US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride
To a solution of 1-(3-aminopropyl)piperidine (285 mg, 2 mmol) in methanol (6 ml) was added 0.1 ml of 6.8N-HCl in MeOH, 1-hydroxy-5-methyl-1-phenylhexan-2-one (413 mg, 2 mmol) and sodium cyanoborohydride (126 mg, 2 mmol). The reaction mixture was stirred for 19 hours at room temperature. The mixture was concentrated under reduced pressure and to the residue was added lN-HCl and ether. The aqueous layer was separated, basified with a 10% NaOH aqueous solution and then extracted three times with ether. The combined ethereal extract was washed twice with water, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue was dissolved in ethanol (12 ml). To the solution was added 0.70 ml of 6N-HCl in EtOH and the resulting mixture was allowed to stand. Precipitated crystals were collected by filtration to obtain 228 mg of the title compound (yield: 28%).

reactant | 1-(3-aminopropyl)piperidine | 2 mmol, 285 mg | NCCCN1CCCCC1 | C8H18N2
reactant | HCl | Cl | ClH
reactant | 1-hydroxy-5-methyl-1-phenylhexan-2-one | 2 mmol, 413 mg | OC(C(CCC(C)C)=O)C1=CC=CC=C1 | C13H18O2
reactant | sodium cyanoborohydride | 2 mmol, 126 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride | 228 mg, yield: 28% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C21H36N2O.2ClH/c1-18(2)12-13-20(21(24)19-10-5-3-6-11-19)22-14-9-17-23-15-7-4-8-16-23;;/h3,5-6,10-11,18,20-22,24H,4,7-9,12-17H2,1-2H3;2*1H
